US07405210B2
Preparation 117: 4(S)-(4-Fluorobenzyl)oxazolidine-2,5-dione
To a solution of 2(S)-tert-butoxycarbonylamino-3-(4-fluorophenyl)propionic acid (1.5 g, 5.29 mmol) in ethyl acetate (100 mL) under an argon atmosphere was added triphosgene (628 mg, 2.12 mmol). To the solution was added triethylamine (0.8 mL 5.76 mmol,) over 1 min, and the reaction stirred for 72 h at rt. The reaction mixture was filtered, and the filtrate concentrated in vacuo to yield an oily residue. The crude material was crystallised from cold dichloromethane and petroleum ether to give the title compound. δH (CD3OD): 7.20 (2H, m), 7.10 (2H, m), 5.86 (1H, s, (NH)), 4.58 (1H, s), 3.33–3.23 (2H, m), 3.11–3.00 (1H, m).

reactant | 2(S)-tert-butoxycarbonylamino-3-(4-fluorophenyl)propionic acid | 5.29 mmol, 1.5 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)F | C14H18FNO4
reactant | triphosgene | 2.12 mmol, 628 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | triethylamine | 5.76 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 4(S)-(4-Fluorobenzyl)oxazolidine-2,5-dione | FC1=CC=C(C[C@@H]2NC(OC2=O)=O)C=C1 | C10H8FNO3
